US07786114B2
The product is prepared by following the procedure described in example 34 stage (k), starting with 0.050 g of [2-(5,6-dimethoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-ylmethyl]-(3-piperidin-1-yl-propyl)amine instead of the cyclopropyl-[2-(5,6-dimethoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-ylmethyl]amine used in example 34 stage (k) and 0.324 cm3 of 5N potassium hydroxide. 0.012 g of [2-(5,6-dimethoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)-1H-pyrrolo[2,3-b]pyridin-4-ylmethyl]-(3-piperidin-1-yl-propyl)amine is obtained with the following characteristics:

reactant | [2-(5,6-dimethoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-ylmethyl]-(3-piperidin-1-yl-propyl)amine | 0.050 g | COC1=C(C=C2C(=N1)C(=CN2C)C2=CC=1C(=NC=CC1CNCCCN1CCCCC1)N2S(=O)(=O)C2=CC=C(C=C2)C)OC | C33H40N6O4S
reactant | potassium hydroxide | 5N, 0.324 cm3 | [OH-].[K+]
product | [2-(5,6-dimethoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)-1H-pyrrolo[2,3-b]pyridin-4-ylmethyl]-(3-piperidin-1-yl-propyl)amine | 0.012 g | COC1=C(C=C2C(=N1)C(=CN2C)C2=CC=1C(=NC=CC1CNCCCN1CCCCC1)N2)OC | C26H34N6O2
